US09102692B2
A mixture of dioxane (0.6 ml), [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[5-bromo-1-(toluene-4-sulfonyl)-1H-indol-2-yl]-methanone (60 mg, 0.102 mmol), dichlorobis(triphenylphosphine)palladium (II) (14 mg, 0.020 mmol), 2-methoxy-5-pyridine boronic acid (39 mg, 0.255 mmol), and an aqueous solution of 2 M sodium bicarbonate (0.255 mL, 0.51 mmol) was stirred at 140° C. for six minutes in a microwave reactor. The reaction mixture was filtered through Celite, and washed with ethyl acetate and then with methanol. The filtrate was dried over anhydrous sodium sulfate. The desiccant was removed by filtration and concentration was performed. The residue obtained was purified by amino gel chromatography (dichloromethane/methanol=99/1 to 92/8). Thus, [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[5-(6-methoxy-pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-indol-2-yl]-methanone was obtained as a pale yellow solid (54 mg, 85%).

reactant | [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[5-bromo-1-(toluene-4-sulfonyl)-1H-indol-2-yl]-methanone | 0.102 mmol, 60 mg | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1N(C2=CC=C(C=C2C1)Br)S(=O)(=O)C1=CC=C(C=C1)C | C27H21BrN6O3S
reactant | 2-methoxy-5-pyridine boronic acid | 0.255 mmol, 39 mg | COC1=NC=C(C=C1)B(O)O | C6H8BNO3
reactant | sodium bicarbonate | 0.51 mmol, 2 M, 0.255 mL | C([O-])(O)=O.[Na+]
catalyst | dichlorobis(triphenylphosphine)palladium | 0.020 mmol, 14 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dioxane | 0.6 ml | O1CCOCC1 | C4H8O2
product | [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[5-(6-methoxy-pyridin-3-yl)-1-(toluene-4-sulfonyl)-1H-indol-2-yl]-methanone | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1N(C2=CC=C(C=C2C1)C=1C=NC(=CC1)OC)S(=O)(=O)C1=CC=C(C=C1)C | C33H27N7O4S
